US04551460
A solution of 17.4 g of 4-bromobutanamine hydrobromide and 6.0 ml (5.9 g) of pyridine in 75 ml of ethanol was heated under reflux for 18 hours. The reaction was cooled and the resulting solid was collected and recrystallized from ethanol to give 3.4 g (15%) of the analytical sample as colorless crystals, 1-(4-aminobutyl)pyridinium bromide hydrobromide mp 219° (decomposition).

reactant | 4-bromobutanamine hydrobromide | 17.4 g | Br.BrCCCCN
reactant | pyridine | 6.0 ml, 5.9 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 1-(4-aminobutyl)pyridinium bromide hydrobromide | Br.[Br-].NCCCC[N+]1=CC=CC=C1 | InChI=1S/C9H15N2.2BrH/c10-6-2-5-9-11-7-3-1-4-8-11;;/h1,3-4,7-8H,2,5-6,9-10H2;2*1H/q+1;;/p-1
